US04695295
Preparation of 2-Isoamyl-2-Oxazoline
A mixture of about 50.g grams (0.515 mole) isoamyl cyanide, about 31.5 grams (0.515 mole) ethanolamine, and about 3.2 grams (0.012 mole) cadmium acetate dihydrate is heated to about 115 degrees C. to about 125 degrees C. and stirred under nitrogen for about two days. The product is distilled under vacuum and the fraction boiling at about 81 degrees C. to about 84 degrees C. at about 29 mmHg is collected.

reactant | isoamyl cyanide | 0.515 mole | C(CC(C)C)C#N | C6H11N
reactant | ethanolamine | 0.515 mole, about 31.5 grams | C(O)CN | C2H7NO
catalyst | cadmium acetate dihydrate | 0.012 mole, about 3.2 grams | O.O.C(C)(=O)[O-].[Cd+2].C(C)(=O)[O-]
product | 2-Isoamyl-2-Oxazoline | C(CC(C)C)C=1OCCN1 | C8H15NO
